US06528510B1
Toluene-4-thiosulfonic acid S-(2-amino-5-tert-butyl-benzothiazol-6-yl)ester
The title compound was prepared according to General Method 15 using 2-amino-5-tert-butyl-benzothiazole-6-thiol (7.0 g, 29 mmol), pyridine (2.3 g, 29 mmol), tosyl bromide (6.9 g, 29 mmol), carbon tetrachloride (100 mL), and EtOAc (100 mL). The crude reaction mixture was purified by flash chromatography (5% EtOAc in hexanes to 50% EtOAc in hexanes as eluents). MS(APCI): 393 (M+H).

reactant | 2-amino-5-tert-butyl-benzothiazole-6-thiol | 29 mmol, 7.0 g | NC=1SC2=C(N1)C=C(C(=C2)S)C(C)(C)C | C11H14N2S2
reactant | pyridine | 29 mmol, 2.3 g | N1=CC=CC=C1 | C5H5N
reactant | tosyl bromide | 29 mmol, 6.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)Br | C7H7BrO2S
reactant | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Toluene-4-thiosulfonic acid S-(2-amino-5-tert-butyl-benzothiazol-6-yl)ester | NC=1SC2=C(N1)C=C(C(=C2)SS(=O)(=O)C2=CC=C(C=C2)C)C(C)(C)C | C18H20N2O2S3
